US08193199B2
Prepared according to Procedure F using 8-methyl-2-(2-(trifluoromethyl)phenyl)-quinoline-3-carbaldehyde (1 g, 3.17 mmol), DCE (16 mL), PMBNH2 (0.62 mL, 4.75 mmol, 1.5 eq), and NaBH(OAc)3 (2.0166 g, 9.52 mmol, 3 eq). After purification, N-(4-methoxybenzyl)(8-methyl-2-(2-(trifluoromethyl)phenyl)-quinolin-3-yl)methanamine was obtained as light yellow syrup. 1H NMR (DMSO-d) δ ppm 8.48 (1H, s), 7.87 (2H, t, J=7.2 Hz), 7.64-7.77 (2H, m), 7.48-7.62 (3H, m), 7.14 (2H, d, J=8.6 Hz), 6.81 (2H, d, J=8.6 Hz), 3.71 (3H, s), 3.44-3.62 (4H, m), 2.61 (3H, s), 2.54 (1H, s). Mass Spectrum (ESI) m/e=437.2 (M+1).

reactant | 8-methyl-2-(2-(trifluoromethyl)phenyl)-quinoline-3-carbaldehyde | 3.17 mmol, 1 g | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)C=O | C18H12F3NO
reactant | PMBNH2 | 4.75 mmol, 0.62 mL, 1.5 eq | C(C1=CC=C(OC)C=C1)N | C8H11NO
reactant | NaBH(OAc)3 | 9.52 mmol, 2.0166 g, 3 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 16 mL | ClCCCl | C2H4Cl2
product | N-(4-methoxybenzyl)(8-methyl-2-(2-(trifluoromethyl)phenyl)-quinolin-3-yl)methanamine | COC1=CC=C(CNCC=2C(=NC3=C(C=CC=C3C2)C)C2=C(C=CC=C2)C(F)(F)F)C=C1 | C26H23F3N2O
